US05925662
9.1. 2-Acetylphenyl butyrate
A mixture of 50 g (367 mmol) of 2-hydroxyacetophenone and 47 g (440 mmol) of butyryl chloride in 100 ml of pyridine is stirred for 30 minutes, then diluted with diethyl ether and washed successively with water and aqueous hydrochloric acid. The organic phase is then dried over sodium sulfate, concentrated under reduced pressure and coevaporated 3 times with toluene. By chromatography of the residue on a silica column using a 0-30% mixture of ethyl acetate in cyclohexane, 72 g of product are obtained in oil form.

reactant | 2-hydroxyacetophenone | 367 mmol, 50 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | butyryl chloride | 440 mmol, 47 g | C(CCC)(=O)Cl | C4H7ClO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-Acetylphenyl butyrate | C(CCC)(=O)OC1=C(C=CC=C1)C(C)=O | C12H14O3
